US07932271B2
2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]pyridine
The 2-[(2,5-difluorophenyl)-hydroxymethyl]pyridine (88 mg, 0.40 mmol) obtained in Referential Example 3 was dissolved in thionyl chloride (2.0 ml). To the resulting solution was added a catalytic amount of dimethylformamide, followed by stirring for 15 hours. The reaction mixture was concentrated under reduced pressure. To the residue was added dioxane, and the resulting mixture was concentrated further. The residue was dissolved in dimethylformamide (5 ml). To the resulting solution were added 4-chlorobenzenethiol (79 mg, 0.55 mmol) and potassium carbonate (226 mg, 1.64 mmol) under a nitrogen atmosphere, and the mixture was stirred at 50° C. for 1 hour. After the reaction mixture was cooled to room temperature, diethyl ether (50 ml) was added thereto. The resulting mixture was washed with water and brine. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (hexane:ethyl acetate=10:1) to give the title compound (128 mg, 92%) as an oil.

reactant | 2-[(2,5-difluorophenyl)-hydroxymethyl]pyridine | 0.40 mmol, 88 mg | FC1=C(C=C(C=C1)F)C(C1=NC=CC=C1)O | C12H9F2NO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-chlorobenzenethiol | 0.55 mmol, 79 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 1.64 mmol, 226 mg | C([O-])([O-])=O.[K+].[K+]
solvent | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]pyridine | 128 mg, 92% | ClC1=CC=C(C=C1)SC(C1=NC=CC=C1)C1=C(C=CC(=C1)F)F | C18H12ClF2NS
